US04505905
Twenty grams of 7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, 13, were dissolved in 40 mL of THF by gentle warming. To this solution at room temperature was added 1.0 mL of triethylamine and 13.0 mL of thiophenol. The resulting solution was stirred under argon at room temperature for 1 hr, after which time 0.5 mL of acetic acid was added, and the solvent was removed by rotary evaporation at 40°. Crystallization from ether at room temperature afforded 21 g (78%) (total of 2 crops) of 3-phenylthio-7-oxobicyclo[3.2.0]heptan-2-carboxylic acid, diphenylmethyl ester, 14. NMR (220 MHz; CDCl3): δ 2.23 (1H, m), 2.43 (1H, m), 2.84 (1H, m), 3.07 (2H, m), 3.41 (1H, m), 3.80 (2H, m), 6.77 (1H, s), and 7.0-7.3 (15H, m).

reactant | 7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | Twenty grams | O=C1CC2CC=C(C12)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O3
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 13.0 mL | C1(=CC=CC=C1)S | C6H6S
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-phenylthio-7-oxobicyclo[3.2.0]heptan-2-carboxylic acid, diphenylmethyl ester | 21 g, 78% | C1(=CC=CC=C1)SC1C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24O3S
